US04912231
C. (cis)-1-Benzoyl-4-[(isopropylsulfonyl)oxy]-L-proline
A solution of (cis)-1-benzoyl-4-hydroxy-L-proline, benzyl ester (500 mg, 1.54 mmole) and triethylamine (322 μl, 2.31 mmole) in dichloromethane (10 ml) was stirred under argon at -10° C. and treated dropwise with isopropylsulfonyl chloride (190 μl, 1.69 mmole). The reaction was warmed to 0° C. over 3 hours and treated with additional triethylamine (30 μl) and isopropylsulfonyl chloride (45 μl). The reaction was stirred at room temperature overnight and diluted with ethyl acetate and washed with 1M HCl, sodium bicarbonate solution, and brine and dried (sodium sulfate). Filtration followed by evaporation afforded an oil which was treated with THF. Evaporation was followed by redissolving the oily residue in 10% aqueous THF (8 ml). The resulting solution was treated with lithium hydroxide monohydrate (129 mg, 3.08 mmole) dissolved in 3 ml of water. The resulting mixture was stirred under argon at room temperature for 2 hours, concentrated in vacuo, and diluted with water. The pH was adjusted to 8 and the aqueous solution was washed with ethyl acetate. The aqueous layer was acidified to pH 2 with HCl and extracted with dichloromethane. The extracts were washed with brine, dried (sodium sulfate), filtered and concentrated. The crude product was recrystallized from methanol-ethyl acetate to afford 413 mg (78%) of the title compound.

reactant | (cis)-1-benzoyl-4-hydroxy-L-proline, benzyl ester | 1.54 mmole, 500 mg | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)C[C@@H](C1)O | C19H19NO4
reactant | triethylamine | 2.31 mmole, 322 μl | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 1.69 mmole, 190 μl | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | triethylamine | 30 μl | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 45 μl | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | lithium hydroxide monohydrate | 3.08 mmole, 129 mg | O.[OH-].[Li+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (cis)-1-Benzoyl-4-[(isopropylsulfonyl)oxy]-L-proline | 413 mg, 78% | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C(C)C | C15H19NO6S
